US06624158B2
(2R,3R,4R,5R)-4-(Benzoyloxy)-5-[6-[(2,2-diphenylethyl)amino]-2-({[2-(1-piperidinyl)ethyl]amino}carbonyl)-9H-purin-9-yl]-2-(1-ethyl-1H-1,2,4-triazol-3-yl)tetrahydro-3-furanyl benzoate
Prepared by the same method as Preparation 27 from 6-[(2,2-diphenylethyl)amino]-N-[2-(1-piperidinyl)ethyl]-9H-purine-2-carboxamide (Preparation 11) and a mixture of (2R,3R,4R,5R)-3,4-bis(benzoyloxy)-5-(1-ethyl-1H-1,2,4-triazol-3-yl)tetrahydro-2-furanyl benzoate and (2S,3R,4R,5R)-3,4-bis(benzoyloxy)-5-(1-ethyl-1H-1,2,4-triazol-3-yl)tetrahydro-2-furanyl benzoate (Preparation 22).

reactant | 6-[(2,2-diphenylethyl)amino]-N-[2-(1-piperidinyl)ethyl]-9H-purine-2-carboxamide | C1(=CC=CC=C1)C(CNC1=C2N=CNC2=NC(=N1)C(=O)NCCN1CCCCC1)C1=CC=CC=C1 | C27H31N7O
reactant | (2R,3R,4R,5R)-3,4-bis(benzoyloxy)-5-(1-ethyl-1H-1,2,4-triazol-3-yl)tetrahydro-2-furanyl benzoate | C(C1=CC=CC=C1)(=O)O[C@H]1O[C@@H]([C@H]([C@H]1OC(C1=CC=CC=C1)=O)OC(C1=CC=CC=C1)=O)C1=NN(C=N1)CC | C29H25N3O7
reactant | (2S,3R,4R,5R)-3,4-bis(benzoyloxy)-5-(1-ethyl-1H-1,2,4-triazol-3-yl)tetrahydro-2-furanyl benzoate | C(C1=CC=CC=C1)(=O)O[C@@H]1O[C@@H]([C@H]([C@H]1OC(C1=CC=CC=C1)=O)OC(C1=CC=CC=C1)=O)C1=NN(C=N1)CC | C29H25N3O7
product | (2R,3R,4R,5R)-4-(Benzoyloxy)-5-[6-[(2,2-diphenylethyl)amino]-2-({[2-(1-piperidinyl)ethyl]amino}carbonyl)-9H-purin-9-yl]-2-(1-ethyl-1H-1,2,4-triazol-3-yl)tetrahydro-3-furanyl benzoate | C(C1=CC=CC=C1)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]1OC(C1=CC=CC=C1)=O)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)NCCN1CCCCC1)C1=NN(C=N1)CC | C49H50N10O6
